US04312876
Cis-4-(2-chlorophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine
To a stirred mixture of 6.23 g of trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol, 7.21 g of triphenylphosphine, 2.85 g of 2-chlorophenol and 250 ml of benzene is added dropwise at 5° C. under nitrogen, a solution of 4.79 g of diethyl azodicarboxylate in 250 ml of benzene. After the addition is complete, the mixture is stirred overnight at room temperature. The reaction mixture is processed according to the procedure of Example 75 to give product as a gum.

reactant | trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol | 6.23 g | C(C)OC(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
reactant | triphenylphosphine | 7.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorophenol | 2.85 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | diethyl azodicarboxylate | 4.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | Cis-4-(2-chlorophenoxy)-1-ethoxycarbonyl-3-phenylpiperidine | ClC1=C(O[C@@H]2[C@@H](CN(CC2)C(=O)OCC)C2=CC=CC=C2)C=CC=C1 | C20H22ClNO3
